Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ with a PMH of HTN who p/w
episode of syncope c/f seizure.  

Patient was at his client's house (works as a ___) was
playing chess and recalls feeling sedated and then passing out.
Per client, he had a 1 minute tonic-clonic seizure on the couch
without fall and without head strike. Per client, pt had a 15
minute postictal state. His client called the ambulance. Pt
recalls waking up in the ambulance, alert and oriented. 

On ROS, pt endorses some back pain that he attributes to a 
recent
difficult work out at the gym. He denies fevers/chills, 
headache,
vision changes, strange smells or visual changes prior to his
syncope, denies waking up with e/o tongue biting or urination.
Denies abdominal pain, N/V, CP/SOB, dysuria/urinary frequency.
Denies new medications or recent ETOH use. 

In the ED, initial VS were: ___ pain, 92 240/140 18 
 
Exam notable for:
RRR. CTABL. SNTND. CN ___ intact. ___ - 0. No evidence of 
tongue
biting. Incontinent of urine
  
Labs showed:
1) CBC: WBC 5.6, Hb 15.5, plt 208
2) Coags: INR 1.0, ___ 25.1
3) Serum tox/urine tox: negative
4) LFTs: AST 30, AST 50, Lipase 37, AP 98, Alb 4.4
5) BNP: Na 143, K 4.6, Cl 104, HCO3 18, BUN 15, Cr 1.3, AG 21
6) Lactate 4.4 --> 1.3 
7) U/A: bland
  
Imaging showed:
1) CT Head w/o CTRST (___)
No acute intracranial process identified. Multiple bilateral
basal ganglia hypodensities, suggestive of chronic lacunar
infarctions.

Received: 
___ 18:47 IVF  NS 
___ 18:52 IV LevETIRAcetam  
___ 19:12 IV LevETIRAcetam 1 mg   
___ 19:54 IVF  NS 1 mL
  
Transfer VS were: 97.9 60 163/89 17 98% RA   

On arrival to the floor, patient reports no confusion, some back
pain. 

 
Past Medical History:
Hypertension
Pneumonia
Obesity
 
Social History:
___
Family History:
Mother- d. ___, pancreatic cancer
Father- coronary bypass surgery
Brother- ___ 
 
Physical ___:
ADMISSION EXAM
==============
VS: 98.5 PO 197 / 109 66 18 95    
GENERAL: NAD, lying in bed comfortably
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1 + S2 present, no mrg 
LUNGS: CTAB, no wheezes/crackle, breathing comfortably on RA 
ABDOMEN: SNTND, no rebound/guarding, +BS
EXTREMITIES: WWP, no ___ edema, PPP
NEURO: ___, CNII-XII intact, ___ strength in UE and ___ b/l. 
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE EXAM
==============
VS: 98.0  166/91  61  18  95RA  
GENERAL: NAD, lying in bed comfortably
HEENT: AT/NC, EOMI
HEART: RRR, S1 + S2 present, no mrg 
LUNGS: CTAB
ABDOMEN: SNTND, no rebound/guarding, +BS
EXTREMITIES: WWP, no ___ edema
NEURO: ___, CNII-XII intact, ___ strength in UE and ___ b/l, 
sensation intact
SKIN: Warm and well perfused, no excoriations or lesions, no
rashes  
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:30PM BLOOD WBC-5.6 RBC-5.00 Hgb-15.5 Hct-45.3 MCV-91 
MCH-31.0 MCHC-34.2 RDW-13.4 RDWSD-44.3 Plt ___
___ 06:30PM BLOOD ___ PTT-25.1 ___
___ 06:30PM BLOOD Plt ___
___ 06:30PM BLOOD Glucose-106* UreaN-15 Creat-1.3* Na-143 
K-4.6 Cl-104 HCO3-18* AnGap-21*
___ 06:30PM BLOOD ALT-30 AST-50* AlkPhos-98 TotBili-0.5
___ 06:30PM BLOOD Albumin-4.4

NOTABLE LABS
============
___ 02:20AM BLOOD Lactate-1.3
___ 06:40PM BLOOD Lactate-4.4*
___ 08:45AM BLOOD Triglyc-71 HDL-36* CHOL/HD-4.3 
LDLcalc-105
___ 08:45AM BLOOD %HbA1c-5.4 eAG-108
___ 08:45AM BLOOD TSH-2.2
___ 06:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

MICRO
=====
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 

IMAGING
=======
___ CT HEAD
IMPRESSION:  
No acute intracranial process.  Multiple bilateral basal ganglia 

hypodensities, suggestive of chronic lacunar infarctions. 

___ EEG
IMPRESSION: Normal portable EEG in wakefulness. There were no 
focal 
abnormalities or epileptiform features. 

___ CXR
IMPRESSION:  
No active disease. 

___ MRI HEAD
IMPRESSION: 
1. Focus of chronic microhemorrhage in the right occipital lobe. 

2. Multiple chronic bilateral basal ganglia lacunar infarcts. 
3. No evidence of PRESS or structural abnormality. 
4. No enhancing brain lesions. 

DISCHARGE LABS
==============
___ 05:15AM BLOOD WBC-5.7 RBC-4.66 Hgb-14.2 Hct-42.9 MCV-92 
MCH-30.5 MCHC-33.1 RDW-13.6 RDWSD-46.1 Plt ___
___ 05:15AM BLOOD Plt ___
___ 06:51AM BLOOD Glucose-105* UreaN-16 Creat-1.0 Na-147* 
K-4.2 Cl-108 HCO3-22 AnGap-17*
___ 05:15AM BLOOD ALT-25 AST-39 AlkPhos-91 TotBili-0.3
___ 06:51AM BLOOD Calcium-9.0 Phos-3.5 Mg-2.1
 
Brief Hospital Course:
HOSPITAL COURSE
===============
___ with a PMH of HTN who p/w episode of syncope c/f seizure in 
setting of extreme hypertension. 

ACUTE ISSUES
============
# Syncope: History c/f new onset seizure, corroborated by 
elevated lactic acid in the. No prodrome symptoms to indicate 
syncope. Does not seem induced by toxic ingestion, TBI, 
infection, metabolic abnormality or acute stroke given 
history/physical/labs/imaging. Patient was hypertensive to 240's 
systolic after events, raising possibility of PRES as component. 
MRI with old strokes but nothing acute, no sign of PRES. EEG 
w.n.l. TSH and A1c nl. Lipids high/normal. No events on 
telemetry. Inpatient workup completed, no longer needs ___, 
___ f/u in neurology clinic.

# HTN emergency (inducing seizure): Maximal systolic SBP 240s, 
dropped to 160's in ED with no intervention. Started amlodipine 
10mg QD ___, losartan 25mg ___, discharged on these 
medications. Received PRN labetolol 100 mg PO QD:PRN for SBP > 
160 in the hospital.

# Chronic Lacunar Infarctions: CT Head showed bilateral basal 
ganglia hypodensities c/w chronic lacunar infarctions likely ___ 
HTN. Started ASA 81 and statin on ___ for secondary prevention.

# Type I Ventricular Conduction Delay. PR 203. Otherwise normal.

TRANSITIONAL ISSUES
===================
[] New appointments 
- PCP (patient to call)
- Neurology (scheduled)
[] New medications 
- amLODIPine 10 mg PO/NG DAILY 
- Aspirin 81 mg PO/NG DAILY 
- Atorvastatin 40 mg PO/NG QPM 
- Losartan Potassium 25 mg PO/NG DAILY
[] PCP to titrate up / add new HTM medications to strictly 
regulate, given patient already has lacunar strokes.
[] Patient cannot drive for 6 months (Day 1 = ___ due to 
seizure 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
3.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
4.  Losartan Potassium 25 mg PO DAILY 
RX *losartan 25 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after what appeared to be a 
seizure. You also had very high blood pressure.

We did several tests to find out what causes the seizure, but 
didn't find anything. You should follow up with the neurologists 
outside the hospital.

Your had very high blood pressure in the hospital. The scans of 
your brain showed many small strokes in the brain that were 
likely caused by high blood pressure. We started you on aspirin, 
a statin (to lower cholesterol), and two blood pressure 
medications (amlodipine and losartan) to decrease the risk of 
this worsening.

It is very important to see your new primary care doctor to 
monitor your blood pressure in the future.

Because you had a seizure, you cannot drive for 6 months (first 
day ___.

It was a privilege to care for you in the hospital, and we wish 
you all the best.

Sincerely,

Your ___ Health Team
 
Followup Instructions:
___